US06787552B2
(1) 4-[3-[2-(2-Chlorophenyl)-5-isopropyl-4-oxazolyl]-propenyl]phenol
4-[3-[2-(2-chlorophenyl)-5-isopropyl-4-oxazolyl]-1-hydroxypropyl]phenol (110 mg, 0.296 mmol) and p-toluene-sulfonic acid monohydrate (17 mg, 0.092 mmol) were refluxed in toluene (2 mL) for 20 hours. After the starting compounds diminished, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was collected, washed with water, dried over anhydrous sodium sulfate, and filtered. The ethyl acetate was removed under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1), to give the desired compound (30 mg) as white crystalline product (yield 28%).

reactant | 4-[3-[2-(2-chlorophenyl)-5-isopropyl-4-oxazolyl]-1-hydroxypropyl]phenol | 0.296 mmol, 110 mg | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCC(O)C1=CC=C(C=C1)O)C(C)C | C21H22ClNO3
reactant | p-toluene-sulfonic acid monohydrate | 0.092 mmol, 17 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[3-[2-(2-Chlorophenyl)-5-isopropyl-4-oxazolyl]-propenyl]phenol | 30 mg | ClC1=C(C=CC=C1)C=1OC(=C(N1)CC=CC1=CC=C(C=C1)O)C(C)C | C21H20ClNO2
